US04266011
(b) Preparation of bis-pyrido-[2,3-c;5',6'-e]-pyridazine
10.3 g (0.042 mol) of 6,6'-dinitro-2,2'-bipyridyl and 4.2 g of sodium hydroxide are suspended in 100 ml of water. 22.7 g of sodium sulfide nonahydrate are added and the mixture is refluxed for 15 minutes. The resulting solution is extracted for 12 hours with chloroform. The chloroform solution is dried over magnesium sulfate and evaporated to dryness. The solid residue is recrystallised from isopropanol.

reactant | 6,6'-dinitro-2,2'-bipyridyl | 0.042 mol, 10.3 g | [N+](=O)([O-])C1=CC=CC(=N1)C1=NC(=CC=C1)[N+](=O)[O-] | C10H6N4O4
reactant | sodium hydroxide | 4.2 g | [OH-].[Na+]
reactant | sodium sulfide nonahydrate | 22.7 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | bis-pyrido-[2,3-c;5',6'-e]-pyridazine | C1=CC=NC=2N=NC3=C(C21)C=CC=N3 | C10H6N4
